US05612353
To a suspension of 7-aminonaphthalene-2-sulfonic acid, sodium salt (3.0 g, 12.2 mmol) in 70 mL of water is added solid NaOH (0.98 g, 24.0 mmol) at room temperature. The mixture is stirred for 30 minutes, and benzyl chloroformate (3.43 mL, 24.0 mmol) is then added. The resulting mixture is stirred over a period of 16 hours. The crude product is treated as in EXAMPLE 9, Part A, to give 4.18 g of crude N-CBz-7-aminonaphthalene-2-sulfonic acid, sodium salt. A mixture of the sulfonic acid, sodium salt (4.18 g, 11.0 mmol) in 12 mL of thionyl chloride is heated at 80° C. for 3 hours. The mixture is allowed to cool to room temperature and concentrated in vacuo. The residue is diluted with EtOAc and washed successively with water (2×), saturated NaHCO3 solution and saturated NaCl. The organic layer is dried over anhydrous MgSO4, filtered and concentrated to give a brown oil. The crude product is purified by column chromatography in a gradient of 10% EtOAc/hexanes to 30% EtOAc/hexanes to afford the title compound (1.76 g, 4.68. mmol) as a beige solid.

reactant | 7-aminonaphthalene-2-sulfonic acid | NC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)O | C10H9NO3S
reactant | sodium | 12.2 mmol, 3.0 g | [Na] | Na
reactant | NaOH | 24.0 mmol, 0.98 g | [OH-].[Na+]
reactant | benzyl chloroformate | 24.0 mmol, 3.43 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 70 mL | O | H2O
product | N-CBz-7-aminonaphthalene-2-sulfonic acid | 4.18 g | C(=O)(OCC1=CC=CC=C1)NC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)O | C18H15NO5S
